US09062068B2
5-amino-2-bromobenzonitrile (5.0 g, 25.4 mmol), cyclopropylboronic acid (4.36 g, 50.8 mmol), Cs2CO3 (49.62 g, 152.3 mmol), and tricyclohexylphosphine (2.85 g, 10.2 mmol) were weighed out and added to a large reaction tube with magnetic stir bar. Toluene (120 mL) and water (40 mL) were added, and the reaction was subjected to vigorous sub-surface nitrogen sparging. Pd(OAc)2 (1.14 g, 5.1 mmol) was weighed out and added, the tube was sealed under nitrogen, and the reaction was heated overnight at 110° C. This was then filtered with water and ethyl acetate washings. The combined washings were treated with saturated aqueous NaHCO3 and the layers were separated. The aqueous was extracted 4 more times with ethyl acetate, and the combined organic layer was washed twice with brine and dried over sodium sulfate. After filtration, concentration, and drying on the high vacuum, 7.65 g was obtained of 5-amino-2-cyclopropylbenzonitrile containing tricyclohexylphosphine derived byproducts. This was used without further purification.

reactant | 5-amino-2-bromobenzonitrile | 25.4 mmol, 5.0 g | NC=1C=CC(=C(C#N)C1)Br | C7H5BrN2
reactant | cyclopropylboronic acid | 50.8 mmol, 4.36 g | C1(CC1)B(O)O | C3H7BO2
reactant | Cs2CO3 | 152.3 mmol, 49.62 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tricyclohexylphosphine | 10.2 mmol, 2.85 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
catalyst | Pd(OAc)2 | 5.1 mmol, 1.14 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | water | 40 mL | O | H2O
solvent | Toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | 5-amino-2-cyclopropylbenzonitrile | NC=1C=CC(=C(C#N)C1)C1CC1 | C10H10N2
